### ISSUE TITLE
Promote by/do/where/with/then/else/:=/=> to opener terminals (lexical layer only)

### ISSUE THREAD

**Issue by tmurph** [tmurph/tree-sitter-lean#74]
## Title
Promote `by`/`do`/`where`/`with`/`then`/`else`/`:=`/`=>` to opener terminals (lexical layer only)

## Context

Part of the "blocks" design — see
`docs/design/2.0-blocks.md` (§2) on `tim/design` for full context, not
required reading to do this issue but the place to look if anything below
is unclear. Issue 1 of 6 in that doc's sequence, first because it's the
cheapest and isolates a real cost question before anything is built on
top of it.

The eventual goal (later issues) is that when a sentence's content ends in
one of these 8 spellings *and nothing else follows on the same physical
line*, the sentence should open a `$.block` child instead of just ending.
This issue is **only** the first half: recognize these 8 spellings as a
distinct `opener` field when they're the last atom before a real newline,
without yet building the block/indent-stack machinery that consumes it.
No `$.block` node, no new external scanner tokens in this issue — just the
grammar-level recognition and its cost.

Today, `by`/`do`/`where`/`with`/`then`/`else` lex as plain `$.identifier`
everywhere (nothing reserves them), and `:=`/`=>` lex as ordinary
`$.operator` runs (the generic `/[-!#$%&*+\/:<=>?@\\^|~.]+/` regex, which
also matches longer runs like `::`, `:=:`, etc.).

## The change

`grammar.js`:

- Add a new hidden rule for the six keyword openers, following exactly the
  existing pattern of `_declaration_keyword`/`_command_keyword`
  (reserved only where the grammar expects one, via tree-sitter's `word`
  keyword extraction — a variable named `with` elsewhere keeps lexing as
  `$.identifier`, no new machinery needed for that property):

  ```js
  _opener_keyword: (_) => choice("by", "do", "where", "with", "then", "else"),
  ```

- Add the two operator openers as a literal-token carve-out with higher
  precedence than the generic `operator` regex — the same trick already
  used in this grammar for `float` beating `number` and `doc_comment`
  beating `comment`:

  ```js
  _opener_operator: (_) => token(prec(1, choice(":=", "=>"))),
  ```

- Combine into one field, aliased to a single node type so consumers can
  ask "does this sentence have an opener" uniformly regardless of which
  spelling it was:

  ```js
  _opener: ($) => choice($._opener_keyword, alias($._opener_operator, $.operator)),
  ```

  (Aliasing the operator variant to `$.operator` rather than a new node
  type mirrors how `_semicolon_operator` is already aliased into
  `$.operator` today — one node type for "an operator," not two.)

- Add exactly one new grammar position for `_opener`: at the tail end of
  `_content`, i.e. restructure the relevant line-family rules
  (`declaration_line`, `command_line`, `line`) so that after the existing
  `optional(field("content", ...))`, there's a new
  `optional(field("opener", alias($._opener, $.opener)))` **before**
  `$._line_end`. Do NOT add `_opener` to `_atom`'s own choice list — it
  must only be reachable in this one tail position, or it stops being "the
  last atom on the line" by construction.
- Declare the new conflict, alongside the two that already exist:

  ```js
  conflicts: ($) => [
    [$._declaration_head, $._atom],
    [$.bracketed, $.unpaired_bracket],
    [$._opener, $._atom],
  ],
  ```

  This is the same shape as the existing `_declaration_head`/`_atom`
  conflict: at every occurrence of one of the 8 spellings, GLR forks
  between "this is the opener" and "this is just another atom in
  `_content`'s repeat," and the wrong branch dies once it's clear whether
  anything else follows on the line.

**Do not** add a `$._block_open`/`$.block` yet. For this issue, once the
`opener` field is recognized, just fall through to `$._line_end` exactly
as before — the field exists and is queryable, but nothing downstream
consumes it yet. (If it's genuinely more natural in the grammar you write
to combine the opener field with a stub `$._block_open`/empty `$.block`
right away rather than leaving it a dead end, that's fine too — the
important constraint is *no indent-stack scanner changes*, not the exact
grammar shape of the stub.)

## Why this might cost more than the last comparable change

`#70` (one external token, one recursive grammar shape) cost +2 states
(78→80). This is a bigger surface: 8 new terminals, 2 of which fork against
the *most common* tokens in any Lean file (`:=` and `=>` appear in nearly
every match arm, lambda, and binding). The fork only exists at the
sentence-content tail (never inside `bracketed` — `{ x := 1 }`'s interior
atoms never reach this position), which should bound it, but "should" is
exactly what this issue is for.

## Baseline to measure against

`tim/design` traces back to `feat/2.0-rewrite` @ `1324bb3`: `STATE_COUNT`
80, `SYMBOL_COUNT` 95, corpus 20/339, `test/golden/` 6/6 clean (zero
`ERROR`), throughput ~3900-4600 bytes/ms. Base this issue's branch off
`feat/2.0-rewrite` at that commit (not off `tim/design`, which is
design-docs-only and has no grammar changes).

## Done when

- `test/corpus/` gets new tests: each of the 8 spellings recognized as an
  `opener` field when trailing (immediately followed by a real newline,
  nothing else on the line), and confirmed NOT recognized as an opener
  (falls back to ordinary atom) when something else follows on the same
  line — e.g. `:= 1` (content follows, no opener), `:= by trivial`
  (`by` has content after it, no opener on `by`; `:=` itself also has
  content after it, no opener on `:=` either), `with foo bar` (more atoms
  follow `with`, no opener).
- `test/golden/` (all 6 files) still parses with zero `ERROR` nodes.
- Report `STATE_COUNT`/`SYMBOL_COUNT` deltas against the 80/95 baseline
  above in the PR description, not just "generate succeeded."

## Stop-and-report condition

If `STATE_COUNT` moves by more than ~15-20 states for this issue alone
(lexical recognition only, no block machinery yet), stop and report before
proceeding to Issue 2 — that would mean the cost prediction in
`docs/design/2.0-blocks.md` (~140-200 states total, across all 6 issues)
is already off by a wide margin on the *cheapest* issue in the sequence,
which is worth a design conversation before sinking further budget into
Issues 2-3.

## Reference

`docs/design/2.0-blocks.md` §2, §9 on `tim/design`.

**Comment by tmurph** [comment]
Implemented this exactly as specified (grammar.js: `_opener_keyword`, `_opener_operator`, `_opener`, the three tail insertion points, the conflict entry) and hit both the cost gate and a correctness break. Reporting rather than pushing through, per the issue's own instructions.

## State cost

STATE_COUNT 80 -> 109 (+29), SYMBOL_COUNT 95 -> 104 (+9). That's outside the ~15-20 stop-and-report band on its own.

Note: `tree-sitter generate` flags `[$._opener, $._atom]` as an "unnecessary conflicts" warning, and STATE_COUNT is identical (109) whether or not it's declared. So the +29 isn't from GLR forking on that pair — it's the eight new terminals and the three new tail positions alone.

## Correctness break (worse than the cost number)

The `_opener_operator` trick — `token(prec(1, choice(":=", "=>")))` used only inside `_opener` — does not behave like the `float`-beats-`number` precedent it's modeled on. `float` wins the tie unconditionally and correctly, because a `float`-shaped span is *always* a float wherever it occurs. `:=`/`=>` are not like that: which one they are (ordinary content atom vs. "the opener") depends on what comes *after* them on the line, and token precedence is resolved by the lexer against the current parser state, before the rest of the line is seen. Since `optional(field("opener", ...))` sits directly after `repeat1($._atom)` in the same production, "maybe stop here for the opener" is a legal continuation at essentially every position right after any atom — so the higher-precedence `_opener_operator` token wins the tie every time a `:=`/`=>` appears there, regardless of what follows.

Concretely, the issue's own acceptance-criterion example breaks:

Input: `example := 1`

Got:
```
(declaration_line
  head: (head)
  opener: (opener (operator))    ; := forced into "opener"
  (ERROR))                        ; "1" has nowhere to go
```

Expected (per "Done when"): `:=` should not be recognized as an opener at all here — content should just be `(content (operator) (number))`.

This isn't an isolated case. It reproduces for any `:=`/`=>` that has more atoms after it on the same line, which is most of them in real Lean:

- `lemma foo (h : P) : Q := by` — even a single bracket pair before the `:= by` tail corrupts bracket matching (`MISSING ")"`, the outer `(` never finds its real close because the parser has already forced-committed the `:=` into the opener slot two atoms later).
- corpus: 20/339 -> 10/339 passing.
- `test/golden/`: 6/6 clean -> 2/6 clean (4 of 6 now have MISSING/ERROR nodes).

Declaring `[$._opener, $._atom]` as instructed doesn't fix this (see above — it's a no-op here); the automaton resolves the tie deterministically at generate time, not via GLR forking, so there's no runtime fork to correct the early commitment.

The six keyword openers (`by`/`do`/`where`/`with`/`then`/`else`) don't have this problem — keyword extraction is context-sensitive (it only reserves the word where the grammar actually expects a keyword at that exact position), so a lone trailing `by` works fine and a mid-line `by` still lexes as `$.identifier`. It's specifically the two-operator half of the design, built on plain token precedence rather than keyword extraction, that's unsound for a "last atom on the line" concept.

## What I did

Reverted the working tree back to `1324bb3` (clean `git diff`, nothing committed) rather than land a partial or risky fix. Given both the state-count overshoot and the correctness regression, I think this needs a design conversation before Issue 2: the `:=`/`=>` half probably needs either (a) a real grammar-level fork with a precedence/associativity rule that lets the parser recover instead of hard-committing, (b) an external-scanner token that can peek past the rest of the line the way `_continuation` already does, or (c) dropping the operator half of the opener set and keeping only the six keywords, which don't have this failure mode.

Full repro commands available on request; used `test/t9.lean`-style single-line fixtures (`example := 1`, `lemma foo (h : P) : Q := by`) against a build at `libtree-sitter-lean.so --lib-path`.

**Comment by tmurph** [comment]
Confirmed Gary's stop, with one correction that changes the fix.

I reproduced the implementation independently in a scratch clone of
`feat/2.0-rewrite` and got **STATE_COUNT 109**, matching his number exactly.
Both of his failure cases reproduce:

```
example := 1
  →  opener: (opener ":=")  (ERROR "1")

lemma foo (h : P) : Q := by
  →  (bracketed [1,10]-[1,27] … (unpaired_bracket ")") …)
```

His diagnosis of *why* is right and worth keeping: the `float`-beats-`number`
precedent is unsound here because that tie is purely lexical — a float-shaped
span is always a float — whereas opener-versus-content is a **syntactic**
distinction that depends on what follows, and the lexer resolves the tie
before that is known.

## The correction: the six keyword openers are NOT fine

The report says keyword extraction makes them safe "by construction". It does
not. Keyword extraction decides whether a word *may* lex as a keyword token in
this state; it does not decide whether an opener is syntactically correct
here. At the tail of `_content` both the opener and another atom are valid, so
the keyword wins the same way `:=` does:

```
cases h with a b
  →  content: (content (identifier "cases") (identifier "h")
                       (ERROR (opener "with"))
                       (identifier "a") (identifier "b"))
```

```
theorem t : P := by trivial
  →  opener: (opener ":=")  (MISSING semicolon)
     then `by trivial` spills out into a separate (paragraph)
```

So the unsoundness is uniform across all eight openers, not a property of the
two operator spellings.

## Why that is good news

It makes the fix one mechanism instead of two. Every opener needs the same
test — **is this token genuinely the last thing on its line** — and that is a
bounded lookahead the lexer cannot do but the external scanner already does
twice in this grammar: `semicolon` swallows a following newline, and
`_continuation` peeks the next line's indent before committing.

An external `_opener` token would consume the candidate, skip horizontal
whitespace, and emit only if what follows is a newline; otherwise return false
and let the internal lexer produce an ordinary `operator` or `identifier`.
That is Gary's option 2, and it now covers the whole list rather than patching
half of it.

Two things to settle before rewriting the issue:

1. Whether the scanner or the grammar owns the eight-item list. Putting the
   spellings in the scanner duplicates knowledge the grammar already has.
2. What that costs. The +29 measured here was with the unsound design, where
   the opener slot is reachable after every atom. A scanner-gated opener is
   only offered at end of line, which should collapse much of that — but it
   needs measuring, not assuming, and the ~15-20 gate should stand.

**Comment by tmurph** [comment]
Rewritten 2026-09-17 following Gary's implementation report and my own verification above. The original mechanism (`token(prec(1, ...))` + `conflicts`) is confirmed unsound, not just over budget -- see the amended `docs/design/2.0-blocks.md` §2 on `tim/design` for the corrected design (a single external `_opener` scanner token) and the measured cost (+14 states, within the gate, once two implementation gotchas found while prototyping are handled: a probe-ordering bug that silently drops bytes, and a placement gap that misses openers on continuation lines). Issue body replaced in full below rather than left stale.
